* C:\users\gary\Documents\_University\_2022\_Second Semester\E Design\E344\LTSpice\A1\E344_Ass1_CurrSense.asc
V2 N002 0 5
RSense5V N002 5V 1µ
R_sense N004 R_sense_V 0.01
I1 N004 R_sense_V PWL file=PWL.csv AC 0
V1 N004 0 SINE(0m 10m 1000) AC 1
R1 V_current 0 100k
XU2 N003 N001 5V 0 V_current LTC6078
R2 N003 R_sense_V 330
Rg 0 N003 100k
R11 N001 0 330
Rf N001 V_current 100k
Cf V_current N001 100n
Cg N003 0 100n
.tran 0 {transtop} 0
.include A1cfg.txt
* Don't change these -- used for auto-assessments.\nYou may modify the input files (.txt and .csv) \n               while developing.\nFor submission: \n  * Only one label name per net name\n  * Use only VSupply for power
* Config file:
* Analysis setup:
* =============================\nG. Allen 23905093\n=============================
* ==========================================\nYour circuit goes here. Feel free to move things around. \n==========================================
* PLEASE WAIT FOR YOUR SIMULATION TO FINISH BEFORE SUBMITTING.
* 5V power supply\n(input to your circuit)
* Current sense R voltage\n(input to your circuit)
* Conditioned current sense R\n(output from your circuit)
.lib LTC5.lib
.backanno
.end
